US05550117
11-Cyclopropyl-4-methyl-6-methylsulfinyl-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine
A solution of 11-cyclopropyl-4-methyl-6-methylthio-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine (0.8 g, 0.0027 mol) in methylene chloride (10 mL) was cooled in an ice water bath. To the resulting clear yellow solution was added m-chloroperbenzoic acid (0.55 g, 0.0027 mol) in one portion and the reaction mixture was stirred at 0° C. for 30 min. A cloudy yellow solution was obtained which was quenched by the addition of Ca(OH)2 (1 g, 0.0135 mol). The reaction mixture was stirred at room temperature for 15 min., filtered through a pad of Celite, and concentrated to obtain a yellow oil. Trituration with ether afforded 0.7 g of the title compound, m.p. 188°-190° C.

reactant | 11-cyclopropyl-4-methyl-6-methylthio-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine | 0.0027 mol, 0.8 g | C1(CC1)N1C2=C(N=C(C3=C1N=CC=C3)SC)C(=CC=N2)C | C16H16N4S
reactant | m-chloroperbenzoic acid | 0.0027 mol, 0.55 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 11-Cyclopropyl-4-methyl-6-methylsulfinyl-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine | 0.7 g | C1(CC1)N1C2=C(N=C(C3=C1N=CC=C3)S(=O)C)C(=CC=N2)C | C16H16N4OS
